*
.subckt my_subckt vin vout
R1 vin vout1 1k
C1 vout1 0 1uF
E1 vout 0 vout1 0 1
.ends my_subckt

.subckt my_subckt2 vin vout
R1 vin vout1 1k
C1 vout1 0 1uF
E1 vout2 0 vout1 0 1
X3 vout2 vout3 my_subckt
X4 vout3 vout my_subckt
.ends my_subckt2

.subckt my_subckt3 vin vout
R1 vin vout1 1k
C1 vout1 0 1uF
E1 vout2 0 vout1 0 1
X2 vout2 vout my_subckt2
.ends my_subckt3

V1 vin 0 1 ac=1
X1 vin vout my_subckt3
.op
.ac dec 10 1 10k